US09169215B2
Step 1: Preparation of 2-(2,4-dimethoxyphenyl)-3-(iso-propylamino)-1H-imidazo[1,2-b]pyrazole-7-carbonitrile
To a mixture of 5-amino-1H-pyrazole-4-carbonitrile (771 mg, 7.13 mmol) and 2,4-dimethoxybenzaldehyde (1.19 g, 7.13 mmol) in a vial under nitrogen atmosphere were added methanol (20 mL) followed by iso-propyl isonitrile (500 mg, 581 μL, 7.13 mmol) and perchloric acid (143 mg, 128 μL, 1.43 mmol) at RT. Then, the resulting brown solution was stirred for 15 h by which time LC/MS analysis indicated the presence of the desired product. Then, the solvent was removed under vacuum and the residue was purified using an ISCO (80 g) column chromatography eluting with 0-50% ethyl acetate in hexanes. The desired fractions were combined and the solvent was removed under vacuum to obtain 647 mg (28% yield) of 2-(2,4-dimethoxyphenyl)-3-(iso-propylamino)-1H-imidazo[1,2-b]pyrazole-7-carbonitrile as a light yellow solid. LC/MS calcd. for C17H19N5O2 (m/e) 325.37, obsd. 326.0 (M+H, ES+).

reactant | 5-amino-1H-pyrazole-4-carbonitrile | 7.13 mmol, 771 mg | NC1=C(C=NN1)C#N | C4H4N4
reactant | 2,4-dimethoxybenzaldehyde | 7.13 mmol, 1.19 g | COC1=C(C=O)C=CC(=C1)OC | C9H10O3
reactant | iso-propyl isonitrile | 7.13 mmol, 581 μL, 500 mg | C(C)(C)[N+]#[C-] | C4H7N
reactant | perchloric acid | 1.43 mmol, 128 μL, 143 mg | Cl(=O)(=O)(=O)O | ClHO4
solvent | methanol | 20 mL | CO | CH4O
product | 2-(2,4-dimethoxyphenyl)-3-(iso-propylamino)-1H-imidazo[1,2-b]pyrazole-7-carbonitrile | COC1=C(C=CC(=C1)OC)C=1NC=2N(N=CC2C#N)C1NC(C)C | C17H19N5O2
